US06365312B1
A 2-necked 50 milliliter round-bottomed flask equipped with a magnetic stirring bar and an argon inlet was charged with re-distilled (pressure 2 mm Hg, temperature 45° C.) 2,3,3-trimethylindolenine (7.95 grams, 50.0 mmol) and 3-iodopropionic acid (2.00 grams, 10 mmol). The mixture was heated to 80° C. for 12 hours, during which time the product precipitated out of solution and formed a highly viscous medium. Upon cooling, the reaction mixture was extracted three times with 200 milliliter portions of diethyl ether to remove all of the unreacted starting material. The remaining crystalline solid was then dissolved in 10 milliliters of water, extracted three times with 50 milliliter portions of diethyl ether, and extracted three times with 25 milliliter portions of CHCl3. The aqueous layer was then removed and dried under vacuum (1.0 mm Hg) for 24 hours. The resulting amorphous solid was then recrystallized from toluene/CHCl3 mixtures to produce the N-(2-carboxyethyl)-2,3,3-trimethylindolinium iodide product as 3.0 grams of a yellow solid (83.5 percent yield). 1H and 13C NMR spectra indicated the following:

reactant | 2,3,3-trimethylindolenine | 50.0 mmol, 7.95 grams | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 3-iodopropionic acid | 10 mmol, 2.00 grams | ICCC(=O)O | C3H5IO2
product | N-(2-carboxyethyl)-2,3,3-trimethylindolinium iodide | [I-].C(=O)(O)CC[NH+]1C(C(C2=CC=CC=C12)(C)C)C | InChI=1S/C14H19NO2.HI/c1-10-14(2,3)11-6-4-5-7-12(11)15(10)9-8-13(16)17;/h4-7,10H,8-9H2,1-3H3,(H,16,17);1H
